* Schematics Netlist *



V_VG1         1G 0 DC 0 AC 0 
V_VP         1P 0 DC 0 AC 0 
V_VG2NOM         $N_0001 0 DC 300 AC 0 
E_E2         2G 0 VALUE { V($N_0001, 0)*0+V(1P)*1 }
X_TU1         1P 1G 0 2G 6550
