* Z:\home\aalmela\scm\git\utn\eaiii\2019\Estabilidad\spice\ejercicio.asc
r11 ia 0 {1/g11}
c11 ia 0 {c11}
r22 oa 0 {1/g22}
c22 oa 0 {c22} Rser=0
B§y1 ia 0 I=V(oa)*{g12}+ddt(V(oa))*{c12}
B§y2 oa 0 I=V(ia)*{g21}+ddt(V(ia))*{c21}
Ln1 N004 0 {Ln1}
Ln2 ia N004 {Ln2}
Ln N002 ia {Ln}
C1 N002 0 {C1}
rp1 0 N002 {rp}
rg1 N004 N003 {rg}
V1 N003 0 PULSE(0 10u 10n 0 0 10n 1) AC 1e-6
L1 oa 0 {L1}
C3 oa N005 {C3}
C2 N005 0 {C2}
rp2 oa 0 {rp}
RL1 N005 0 {RL}
Ln3 0 N001 {Ln3}
C4 N001 ia 4.7e-12
.ac dec 10000 10e6 400e6
.param rg  =  100.00 
.param g11  =  1.000e-03 
.param c11  =  5.000e-12 
.param g12  =  -1.000e-05 
.param c12  =  -9.995e-13 
.param g21  =  5.000e-02 
.param c21  =  -7.958e-11 
.param g22  =  1.000e-04 
.param c22  =  5.000e-12 
.param RL  =  1000.0 
.param C1 =  2.464e-11 
.param C2 =  6.210e-11 
.param C3 =  2.872e-11 
.param Ln1  =  5.0860e-10 
.param Ln2  =  2.3779e-09 
.param Ln   =  6.2167e-08 
.param L1   =  1.0282e-07 
.param Ln3  =  4.6497e-09 
.param rp  =  9694
;tran 10u
K1 Ln1 Ln2 1
K2 Ln1 Ln 1
K3 Ln2 Ln 1
;ac dec 10000 90e6 110e6
;tran 1e-5
K4 L1 Ln3 1
.backanno
.end
