* Z:\home\aalmela\scm\git\utn\eaiii\2020\3_Circuitos_sintonizados\5_Ejercicios\LTspice\2N3819\AC.asc
J1 N004 i N006 2N3819
R1 N006 0 270
C1 N006 0 1µ
Lo N001 o 1m
Li 0 i 1m
Co N002 o 1µ
Ci N005 i 1µ
V1 N001 0 9
V2 N005 0 AC 100u
V3 N002 0 AC 0
J2 o N003 N004 2N3819
R2 N001 N003 47k
R3 0 N003 47k
C2 0 N003 1µ
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.jft
.ac lin 100 10e6 1e9
.backanno
.end
