* Z:\home\aalmela\scm\git\utn\eaiii\2020\11_Examenes\1_Primer_Parcial \spice\20190701_circ.asc
L1 a 0 {L1}
L2 B 0 {L2}
r1 B 0 {1/g11}
r2 C 0 {1/g22}
B§y1 C 0 I=V(B)*{g21}
L3 o 0 {L4}
C5 C 0 {C3}
C6 B 0 {C2}
R3 a N001 {rg}
R4 o 0 {rl}
L4 C 0 {L3}
C7 a 0 {C1}
C1 o 0 {C4}
V1 N001 0 AC 1
k1 L1 L2 {k1}
.ac dec 10000 95e6 105e6
K2 L3 L4 {k2}
.param rg  = 5.0000e+01
.param L1  = 3.0453e-10
.param L2  = 6.0906e-08
.param L3  = 2.9408e-07
.param L4  = 1.4704e-08
.param C1  = 8.3178e-09
.param C2  = 4.1589e-11
.param C3  = 8.6134e-12
.param C4  = 1.7227e-10
.param k1  = 9.2388e-03
.param k2  = 3.8268e-03
.param g11 = 1.0000e-04
.param g21 = 1.0000e-02
.param g22 = 5.0000e-05
.param rl = 1.0000e+03
.backanno
.end
