* Z:\home\aalmela\scm\git\utn\eaiii\2020\11_Examenes\4_Simulacros_segundo\TX_FM\LTspice\modFM.asc
R1 N004 N006 2.4K
R2 N005 N004 10k
C1 N005 N004 100nC
Ca1 N006 m 10µC
V1 0 N007 2.5
V2 m 0 SINE(0 0.1 1k)
V3 Vp 0 5
V4 0 Vn 5
L1 g N005 1m
V5 c 0 SINE(0 50e-3 100e3)
Ca2 i c 3.18n
C2 N002 i 3.18n
R4 N005 0 10k
L2 N001 N002 10m
V6 N001 0 10
B1 N002 0 I=(-2*10e-3/(-5)*(1-(V(g)/(-5))))*V(i)
R5 N003 0 1k
C3 N003 N002 100µ
XU1 N007 N004 Vp Vn N005 LTC6241
.tran 0 110m 10m
.lib LTC4.lib
.backanno
.end
