* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\DobleBalancedMixer.asc
L1 N004 0 10µ
L2 N007 N002 10µ
L3 N009 N007 10µ
L4 N001 0 10µ
L5 0 N008 10µ
L6 0 N005 10µ
rx N004 N003 50
R2 N006 N005 50
D1 N001 N002 1N5818
D2 N009 N001 1N5818
D3 N002 N008 1N5818
D4 N008 N009 1N5818
VOL N006 0 SINE(0 3 4e6 0 0 0)
VRF N003 0 SINE(0 50m 3.5e6 0 0 0)
R1 N007 0 50
R3 N010 N007 1k
C1 N010 0 10n
L7 N010 0 10µ
.model D D
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.tran 0 110e-6 100e-6
.backanno
.end
