* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft2.asc
C1 N001 0 4p
R1 N001 0 1
I1 0 N001 PULSE(0 1 10p 1p 1p 20p)
R2 N002 N001 10
C2 N002 0 0.5p
C3 N003 0 4p
R3 N003 0 1
I2 0 N003 PULSE(0 1 10p 1p 1p 20p)
R4 a N003 10
C4 a 0 0.5p
B1 0 N003 I=V(a)*1
.tran 50p
.backanno
.end
