* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft3.asc
V1 i 0 PWL(0 -0.1 1 1)
B1 i 0 I=a * V(i) + b * pow(V(i),2) + c * pow(V(i),3)
XU1 i 0 MBD1057
.tran 1
.param a = 0.1414
.param b = -0.4302
.param c = 0.3343
.lib Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\tunel_model.net
.backanno
.end
