* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft4.asc
J1 N002 N005 N006 2N3819
V1 N003 0 PWL(0 -3 1 0) AC 10e-3
V2 N001 0 12
L1 N001 N002 100e-3
C1 N003 N002 10e-6
R1 N007 0 146
L2 N006 N007 1e-6
C2 N006 N007 209.3e-12
C3 N007 0 10µ
R2 N004 0 1k
C5 N005 N004 10µ
C6 N005 0 253.3e-12
L4 N005 0 1e-6
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.ac dec 1000 1e6 100e6
.backanno
.end
